US07396844B1
Synthesis of (3R)-1-(t-butoxycarbonyl)-3-hydroxypyrrolidine
25.0 g (191 mmol) of trans-4-hydroxy-L-proline and 1.5 ml of cyclohexanone were dissolved in 150 ml of cyclohexanol, and the solution was stirred at 160° C. for 16 hours. The solution was diluted with methyl isobutyl ketone, and the same isolation procedure as that of step 1 in Example 1 was at repeated by using 1 N aqueous hydrochloric acid solution as the extractant to obtain the crude product. The oily residue thus obtained was dissolved in 300 ml of tetrahydrofuran and 300 ml of water. 34 ml (244 mmol) of triethylamine and 31.4 g (143 mmol) of di-t-butyl dicarbonate were added to the solution at 0° C., and they were stirred for 4 hours. The reaction mixture was treated by the same isolation procedure as that of step 1 in Example 1 with ethyl acetate as the extractant to obtain the crude product, which was then purified by the silica gel column chromatography to obtain the title compound.

reactant | trans-4-hydroxy-L-proline | 191 mmol, 25.0 g | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | cyclohexanone | 1.5 ml | C1(CCCCC1)=O | C6H10O
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | triethylamine | 244 mmol, 34 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 143 mmol, 31.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | cyclohexanol | 150 ml | C1(CCCCC1)O | C6H12O
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R)-1-(t-butoxycarbonyl)-3-hydroxypyrrolidine | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)O | C9H17NO3
